US06825354B2
Ethyl[(4-hydroxyphenyl)sulfanyl][4-(2-thienyl)phenyl]acetate was prepared according to the general method as outlined in example 1 (step 1), starting from ethyl bromo[4-(2-thienyl)phenyl]acetate (2 g, 6.15 mmol) and 4-mercaptophenol (0.82 g, 6.5 mmol); 1.68 g white solid. mp: 103° C.; Yield 73%; MS: 369.1 (M−H)−

reactant | ethyl bromo[4-(2-thienyl)phenyl]acetate | 6.15 mmol, 2 g | BrC(C(=O)OCC)C1=CC=C(C=C1)C=1SC=CC1 | C14H13BrO2S
reactant | 4-mercaptophenol | 6.5 mmol, 0.82 g | SC1=CC=C(C=C1)O | C6H6OS
product | Ethyl[(4-hydroxyphenyl)sulfanyl][4-(2-thienyl)phenyl]acetate | Yield 73% | C(C)OC(C(C1=CC=C(C=C1)C=1SC=CC1)SC1=CC=C(C=C1)O)=O | C20H18O3S2
